US05834463
(3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
Using 9-(4-nitrobenzyl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one, synthesis was conducted by substantially the same procedure as in Working Example 24. The compound thus synthesized was purified by silica-gel column chromatography to afford the titled compound (yield 46%), m.p. 154°-155° C. (ethyl acetate-diethyl ether).

reactant | 9-(4-nitrobenzyl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | [N+](=O)([O-])C1=CC=C(CN2C3=C(N=C4C(C2=O)CCC4)C=CC=C3)C=C1 | C19H17N3O3
solvent | ethyl acetate diethyl ether | C(C)(=O)OCC.C(C)OCC
product | (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | yield 46% | [N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H19N3O3
